US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2-chloro-4-cyano-6-methylphenyl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (200 mg) and 4-amino-3-chloro-5-methylbenzonitrile (195 mg). Purification by column chromatography on silica eluting with 2% methanol in dichloromethane gave the title compound (92 mg) as a white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 4-amino-3-chloro-5-methylbenzonitrile | 195 mg | NC1=C(C=C(C#N)C=C1C)Cl | C8H7ClN2
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2-chloro-4-cyano-6-methylphenyl)amide | 92 mg | ClC1=C(C(=CC(=C1)C#N)C)NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C19H16ClN3O3
